US08604029B2
To a solution of ethyl 2-(4-nitrophenyl)-acetimidate hydrochloride (3.5 g, 14.3 mmol) in ethanol (15 mL) was added amino acetaldehyde dimethyl acetal (1.87 mL, 17.2 mmol) and the reaction heated at reflux for 18 h. The reaction mixture was concentrated which was mixed with 2N hydrochloric acid (30 mL) and heated to 60° C. for 18 h. The solvent was evaporated, diluted with water and extracted with ethyl acetate. The organic layer was separated, the aqueous layer basified with sodium carbonate and extracted with chloroform (×2). The combined chloroform extracts was dried over sodium sulfate, filtered and evaporated under reduced pressure to obtain 2-(4-nitro-benzyl)-1H-imidazole (1.5 g, 51%) as a brown solid.

reactant | ethyl 2-(4-nitrophenyl)-acetimidate hydrochloride | 14.3 mmol, 3.5 g | Cl.[N+](=O)([O-])C1=CC=C(C=C1)CC(OCC)=N
reactant | amino acetaldehyde dimethyl acetal | 17.2 mmol, 1.87 mL | COC(CN)OC | C4H11NO2
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-(4-nitro-benzyl)-1H-imidazole | 1.5 g, 51% | [N+](=O)([O-])C1=CC=C(CC=2NC=CN2)C=C1 | C10H9N3O2
